US07304065B2
Preparation of 4′-fluoro-biphenyl-4-carboxylic acid (6-cyano-1,2,3,4-tetrahydro-naphthalen-2-yl)-methyl-amide (7)
To a solution of 4′-Fluoro-biphenyl-4-carboxylic acid (6-cyano-1,2,3,4-tetrahydro-naphthalen-2-yl)-amide, 3, (0.200 g, 0.541 mmol) in anhydrous DMF (4 mL) is added 60% NaH dispersed in mineral oil (32 mg, 1.5 eq.) and the resulting solution is stirred at room temperature for 30 min. Methyl iodide (0.101 mL, 3 eq.) is added to the solution and the reaction solution is stirred for another 30 min. A minimal amount of water is added to quench the reaction and the mixture is dried over anhydrous MgSO4 then concentrated in vacuo to afford 0.201 g of the desired product which is used without further purification. LRMS: 385.22 (M+H).

reactant | 4′-Fluoro-biphenyl-4-carboxylic acid (6-cyano-1,2,3,4-tetrahydro-naphthalen-2-yl)-amide | C(#N)C=1C=C2CCC(CC2=CC1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C24H19FN2O
reactant | NaH | [H-].[Na+]
reactant | Methyl iodide | 0.101 mL, 3 eq. | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4′-fluoro-biphenyl-4-carboxylic acid (6-cyano-1,2,3,4-tetrahydro-naphthalen-2-yl)-methyl-amide | 0.201 g | C(#N)C=1C=C2CCC(CC2=CC1)N(C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F)C | C25H21FN2O
